US05120855
Crude 5-(p-hydroxyphenyl)hydantoin (85.6 g) is placed in a 1-liter round bottom flask with 41 g hydroxylamine sulfate, 1 g Na2S2O4, 60 g NaOH, and 300 ml H2O. The contents are refluxed for 1 hour and then cooled in an ice bath. Then 125 ml cold concentrated HCl are added. The solids are filtered and washed with 200 ml H2O. The solids are dried in a vacuum oven at 60° C. over the weekend yielding 58.8 g of ca. 95% pure p-hydroxyphenylhydantoic acid (by HPLC analysis).

reactant | 5-(p-hydroxyphenyl)hydantoin | 85.6 g | OC1=CC=C(C=C1)C1C(NC(N1)=O)=O | C9H8N2O3
reactant | hydroxylamine sulfate | 41 g | S(=O)(=O)(O)O.NO
reactant | NaOH | 60 g | [OH-].[Na+]
reactant | HCl | 125 ml | Cl | ClH
catalyst | Na2S2O4 | 1 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | H2O | 300 ml | O | H2O
product | p-hydroxyphenylhydantoic acid | 58.8 g, ca. 95% | OC1=CC=C(C=C1)C(C(=O)O)NC(=O)N | C9H10N2O4
